US07777042B2
(S)-2-{[1-(3-Fluoro-benzenesulfonyl)-piperidine-2-carbonyl]-amino}-3-(4-isopropoxyphenyl)-propionic acid
A mixture of (S)-2-{[(S)1-(3-fluoro-benzenesulfonyl)-piperidine-2-carbonyl]-amino}-3-(4-isopropoxy-phenyl)-propionic acid benzyl ester (0.59 g, 1.00 mmol), ethanol (20 mL) and 10% Pd on carbon (108 mg, 0.1 mmol) was hydrogenated at 30 psi for 2 h. The catalyst was filtered through Celite®. The filtrate was concentrated to afford 410 mg (83.0%) of the title compound.

reactant | (S)-2-{[(S)1-(3-fluoro-benzenesulfonyl)-piperidine-2-carbonyl]-amino}-3-(4-isopropoxy-phenyl)-propionic acid benzyl ester | 1.00 mmol, 0.59 g | C(C1=CC=CC=C1)OC([C@H](CC1=CC=C(C=C1)OC(C)C)NC(=O)[C@H]1N(CCCC1)S(=O)(=O)C1=CC(=CC=C1)F)=O | C31H35FN2O6S
catalyst | Pd on carbon | 0.1 mmol, 108 mg | [Pd] | Pd
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (S)-2-{[1-(3-Fluoro-benzenesulfonyl)-piperidine-2-carbonyl]-amino}-3-(4-isopropoxyphenyl)-propionic acid | 410 mg, 83.0% | FC=1C=C(C=CC1)S(=O)(=O)N1C(CCCC1)C(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)OC(C)C | C24H29FN2O6S
